US03960893
Methyl 5-p-chlorophenylthien-2-ylacetate (5.32 g.) was stirred with a mixture of glacial acetic acid (100 ml.) and sodium acetate (4.8 g.). A solution of bromine (1 ml.) in glacial acetic acid (15 ml.) was added. The mixture was stirred for two hours and then poured into ice/waer (1 l.). After 4 days at ambient temperature the mixture was extracted with ether (4 × 200 ml.), the combined ethereal extracts were successively washed with water (3 × 200 ml.), 10% w/v aqueous sodium bicarbonate (2 × 200 ml.), and water (200 ml.), dried over anhydrous sodium sulphate, and evaporated to give a pale yellow oil. Part of this oil (1.75 g.) was refluxed with ethanol (15 ml.), water (40 ml.) and 11N-sodium hydroxide (15 ml.) for 3 hours. The mixture was added to ice/water (100 ml.) and extracted with ether (3 × 20 ml.). The aqueous layer was acidified with 2N-acetic acid and extracted with ether (3 × 20 ml.). The combined ethereal extracts were washed with water (2 × 20 ml.), dried over anhydrous sodium sulphate and evaporated in a relatively high vacuum (0.5 mm.). The residual solid was dissolved in the minimum volume of ether, and after the addition of 4 volumes of petroleum ether (b.p. 60°-80°C.), gave crystals of α-(4-bromo-5 -p-chlorophenylthien-2-yl)acetic acid, m.p. 136°-137°C.

reactant | Methyl 5-p-chlorophenylthien-2-ylacetate | 5.32 g | ClC1=CC=C(C=C1)C1=CC=C(S1)CC(=O)OC | C13H11ClO2S
reactant | sodium acetate | 4.8 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 1 ml | BrBr | Br2
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 40 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | α-(4-bromo-5 -p-chlorophenylthien-2-yl)acetic acid | BrC=1C=C(SC1C1=CC=C(C=C1)Cl)CC(=O)O | C12H8BrClO2S
